US06610696B2
A. 2-(4-{3-[(Biphenyl-4-carbonyl)-amino]-4-oxo-4-phenyl-butoxy}-phenoxy)-2-methyl-propionic acid
A sample of 2-[(biphenyl-4-carbonyl)-amino]-4-[4-(1-carboxy-1-methyl-ethoxy)-phenoxy]-butyric acid (500 mg, 1.05 mmol) was dissolved in pyridine (3.4 mL, 41.9 mmol, 30 equiv.) followed by benzoic anhydride (711 mg, 3.14 mmol, 3 equiv.) then warmed with magnetic stirring at 90° C. for 10 hours. The reaction mixture was then allowed to cool to room temperature then partitioned by addition of 1.0 N HCl (50 mL) and methylene chloride (50 mL). The organic phase was dried over sodium chloride, and then concentrated under reduced pressure to 1.10 g of an oil. The material was carried forward without further purification or characterization. HPLC RT1=2.36 min.

reactant | 2-[(biphenyl-4-carbonyl)-amino]-4-[4-(1-carboxy-1-methyl-ethoxy)-phenoxy]-butyric acid | 1.05 mmol, 500 mg | C1(=CC=C(C=C1)C(=O)NC(C(=O)O)CCOC1=CC=C(C=C1)OC(C)(C)C(=O)O)C1=CC=CC=C1 | C27H27NO7
reactant | pyridine | 41.9 mmol, 3.4 mL, 30 equiv. | N1=CC=CC=C1 | C5H5N
reactant | benzoic anhydride | 3.14 mmol, 711 mg, 3 equiv. | C(C1=CC=CC=C1)(=O)OC(C1=CC=CC=C1)=O | C14H10O3
product | 2-(4-{3-[(Biphenyl-4-carbonyl)-amino]-4-oxo-4-phenyl-butoxy}-phenoxy)-2-methyl-propionic acid | C1(=CC=C(C=C1)C(=O)NC(CCOC1=CC=C(OC(C(=O)O)(C)C)C=C1)C(C1=CC=CC=C1)=O)C1=CC=CC=C1 | C33H31NO6
